US07825265B2
1-Methoxy-4-(1-phenyl-cyclohexyl)-benzene (B), Procedure B
4-(1-phenylcyclohexyl)phenol (20 mg, 0.08 mmol) was dissolved in DMF (2 mL). A suspension of NaH in oil (60%, 5 mg, 0.125 mmol) was added. After stirring for 5 minutes methyl iodide (0.05 mL; 0.8 mmol) was added. The reaction mixture was stirred for 2 h. (tlc indicated full conversion of the starting material) then quenched with water (10 mL). Dichloromethane (10 mL) was added. The mixture was shaken and the organic phase separated off, dried (Na2SO4) and concentrated to syrup. The title product was afforded after work-up by flash-chromatography (eluent dichloromethane). Yield: 20 mg, quantitatively. LC-MS purity (UV/MS): 100/-, Rt 6.48 min. 1H NMR data were in accordance with the data written above.

reactant | 4-(1-phenylcyclohexyl)phenol | 0.08 mmol, 20 mg | C1(=CC=CC=C1)C1(CCCCC1)C1=CC=C(C=C1)O | C18H20O
reactant | NaH | [H-].[Na+]
reactant | methyl iodide | 0.8 mmol, 0.05 mL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Methoxy-4-(1-phenyl-cyclohexyl)-benzene | COC1=CC=C(C=C1)C1(CCCCC1)C1=CC=CC=C1 | C19H22O
